US06486190B1
A mixture of 1,2-diamino-3,5-dimethyl-4-nitrobenzene (0.87 g, 4.83 mmol) and cyanogen bromide (0.87 g, 7.73 mmol) in methanol (50 mL) is stirred at room temperature for 16 hours. The mixture is rotary evaporated to afford 2-amino-4,6-dimethyl-5-nitrobenzimidazole. The product is used in the next step without further purification.

reactant | 1,2-diamino-3,5-dimethyl-4-nitrobenzene | 4.83 mmol, 0.87 g | NC1=C(C(=C(C(=C1)C)[N+](=O)[O-])C)N | C8H11N3O2
reactant | cyanogen bromide | 7.73 mmol, 0.87 g | N#CBr | CBrN
solvent | methanol | 50 mL | CO | CH4O
product | 2-amino-4,6-dimethyl-5-nitrobenzimidazole | NC=1NC2=C(N1)C=C(C(=C2C)[N+](=O)[O-])C | C9H10N4O2
